US08232286B2
(R)-IMIDAZOL-1-YL-(TETRAHYDROFURAN-2-YL)-METHANONE
21.8 g (32 mmol) imidazole are placed in 400 ml chloroform and cooled to 0° C. 21.3 g (15.0 mol) (R)-tetrahydrofuran-2-carbonyl chloride are added dropwise, then the mixture is stirred for 1.5 hours at ambient temperature. After cooling again to 0° C. the reaction mixture is extracted with semisaturated sodium chloride solution. The organic phase is dried and evaporated to dryness. Yield: 24.0 g

reactant | imidazole | 32 mmol, 21.8 g | N1C=NC=C1 | C3H4N2
reactant | (R)-tetrahydrofuran-2-carbonyl chloride | 15.0 mol, 21.3 g | O1[C@H](CCC1)C(=O)Cl | C5H7ClO2
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-IMIDAZOL-1-YL-(TETRAHYDROFURAN-2-YL)-METHANONE | N1(C=NC=C1)C(=O)[C@@H]1OCCC1 | C8H10N2O2
